US06172076B2
Preparation of 1-Benzyl-4-cyano-4-(3-methylphenylamino)-piperidine
To a solution of 1-benzyl-4-piperidone (18.9 g, 0.1 mol) and 3-methylaniline (10.7 g, 0.1 mol) in glacial acetic acid (100 mL), trimethylsilyl cyanide (6.7 mL, 0.1 mol; Journal of Organic Chemistry, vol. 55, page 4207, year 1990) was added dropwise with the temp. of the reaction maintained <40° C. with an ice-water bath. After addition was complete, the reaction mixture was stirred at room temp. for 30 min, and poured into a mixture of ice (140 g) and concentrated ammonium hydroxide (168 g). The resultant mixture was extracted with chloroform (3 times). The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residual oil was triturated with diisopropyl ether (300 mL) and stirred at room temp. overnight. The white solid precipitated was filtered to provide the title compound.

reactant | 1-benzyl-4-piperidone | 0.1 mol, 18.9 g | C(C1=CC=CC=C1)N1CCC(CC1)=O | C12H15NO
reactant | 3-methylaniline | 0.1 mol, 10.7 g | CC=1C=C(N)C=CC1 | C7H9N
reactant | ammonium hydroxide | 168 g | [OH-].[NH4+]
reactant | acetic acid | 100 mL | C(C)(=O)O | C2H4O2
solvent | trimethylsilyl cyanide | C[Si](C)(C)C#N | C4H9NSi
product | 1-Benzyl-4-cyano-4-(3-methylphenylamino)-piperidine | C(C1=CC=CC=C1)N1CCC(CC1)(NC1=CC(=CC=C1)C)C#N | C20H23N3
